US05763450
A solution of 1.52 g (5 mmol) of N-(4-bromophenyl)-C,C,C-trifluoro-methanesulphonamide (Example 13bv)) in 25 ml of ethyl orthoformate was heated to reflux for 6 hours. Subsequently, the readily volatile constituents were distilled off on a water-jet vacuum and the residue was chromatographed over a flash column with hexane/ethyl acetate 95:5. There were obtained 1.55 g (93%) of N-(4-bromophenyl)-N-ethyl-C,C,C- trifluoro-methanesulphonamide as a pale yellow oil. MS (EI): 331 and 333 (M+, 44%), 198 and 200 ([M-SO2 CF3 ]+, 80%), 118 ([M-(SO2CF3 +HBr)]+, 100%).

reactant | N-(4-bromophenyl)-C,C,C-trifluoro-methanesulphonamide | 5 mmol, 1.52 g | BrC1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C7H5BrF3NO2S
reactant | ethyl orthoformate | 25 ml | C(OCC)([O-])[O-]
product | N-(4-bromophenyl)-N-ethyl-C,C,C- trifluoro-methanesulphonamide | 1.55 g, 93% | BrC1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)CC | C9H9BrF3NO2S
